US08377968B2
A. Synthesis of tert-butyl 2-(4-cyanopiperidin-1-yl)ethylcarbamate
A mixture of piperidine-4-carbonitrile (1.10 g, 10 mmol), tert-butyl 2-oxoethylcarbamate (1.59 g, 10 mmol) and sodium triacetoxy borohydride (2.5 g, 12 mmol) in 25 ml of CH2Cl2 was stirred at room temperature overnight. Solvent was evaporated and ethyl acetate was added and washed with water. The solvent was removed in vacuo to provide oil. The crude oil was purified by column chromatography (100% ethyl acetate) to yield colorless oil (2.3 g, 91%).

reactant | piperidine-4-carbonitrile | 10 mmol, 1.10 g | N1CCC(CC1)C#N | C6H10N2
reactant | tert-butyl 2-oxoethylcarbamate | 10 mmol, 1.59 g | O=CCNC(OC(C)(C)C)=O | C7H13NO3
reactant | sodium triacetoxy borohydride | 12 mmol, 2.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-(4-cyanopiperidin-1-yl)ethylcarbamate | 2.3 g, 91% | C(#N)C1CCN(CC1)CCNC(OC(C)(C)C)=O | C13H23N3O2
